US08530506B2
To a mixture of o-methoxybenzylamine (20.0 g, 0.146 mol), tetrahydrofuran (124 mL) and triethylamine (15.6 g, 0.154 mol) was added dropwise benzoyl chloride (20.5 g, 0.146 mol) at −9-0° C., and the dropping funnel was washed with THF (10 mL). Under a nitrogen atmosphere, the reaction mixture was gradually warmed to about 16° C. During warming, THF (total 51 ml) was appropriately added to stir the content. The reaction was confirmed by TLC (eluent: hexane/ethyl acetate (1:1)). The reaction mixture was stirred at about 16° C. for 10 hr, and cooled to 5° C. Water (44 ml) was added thereto, and the mixture was extracted three times with ethyl acetate (120 mL, 40 mL, 40 mL). The combined organic layers were washed successively with 10% hydrochloric acid (40 mL), saturated aqueous sodium hydrogen carbonate solution (40 mL), water (40 mL) and saturated brine (44 mL), and dried over magnesium sulfate (20 g), and the solvent was evaporated under reduced pressure at 40° C. or lower. Ethyl acetate was added to the residue (content 74 g), and the solid was dissolved with heating to 60° C. The solution was gradually cooled to 6° C., the precipitated crystals were collected by filtration, washed with cold ethyl acetate (10 mL), and dried under reduced pressure at 40° C. or lower to give N-benzoyl-2-methoxybenzylamine (30.7 g, 87.1%) as white crystals.

reactant | o-methoxybenzylamine | 0.146 mol, 20.0 g | COC1=C(CN)C=CC=C1 | C8H11NO
reactant | triethylamine | 0.154 mol, 15.6 g | C(C)N(CC)CC | C6H15N
reactant | benzoyl chloride | 0.146 mol, 20.5 g | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
solvent | tetrahydrofuran | 124 mL | O1CCCC1 | C4H8O
product | N-benzoyl-2-methoxybenzylamine | 30.7 g, 87.1% | C(C1=CC=CC=C1)(=O)NCC1=C(C=CC=C1)OC | C15H15NO2
